US05250678
To a stirred solution of tri(3,4-methylenedioxyphenyl)bismuthine (150 mg., 0.26 mmol) in CH2Cl2 (2 mL) was added peracetic acid (0.060 mL, 0.26 mmol, 32 wt % solution in dilute acetic acid). After approximately 10 minutes the solution was treated with Cu(OAc)2 (25 mg, 0.138 mmol) and 17-ethyl-1,14-dihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (100 mg, 0.126 mmol) and stirred for 18 hours. The reaction mixture was quenched with saturated aqueous NaHCO3 and extracted 2× with CH2Cl2. The extracts were combined, dried with anhydrous Na2SO4, filtered, and concentrated in vacuo. The product was isolated and purified by preparative TLC on silica gel (eluted with 2:1 Hexane/Acetone) to give 37 mg of 17-ethyl-1,14-dihydroxy-12-[2' -(4"-(3'"-methylenedioxyphenyloxy)-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (1H NMR and mass spectral analysis were consistent with the desired structure).

reactant | tri(3,4-methylenedioxyphenyl)bismuthine | 0.26 mmol, 150 mg | C1OC=2C=C(C=CC2O1)[Bi](C1=CC2=C(C=C1)OCO2)C2=CC1=C(C=C2)OCO1
reactant | peracetic acid | 0.26 mmol, 0.060 mL | C(C)(=O)OO | C2H4O3
reactant | 17-ethyl-1,14-dihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 0.126 mmol, 100 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O)OC)C)C)O)=O | C43H69NO12
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
catalyst | Cu(OAc)2 | 0.138 mmol, 25 mg | CC(=O)[O-].CC(=O)[O-].[Cu+2]
product | 17-ethyl-1,14-dihydroxy-12-[2' -(4"-(3'"-methylenedioxyphenyloxy)-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 37 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OC2=CC1=C(C=C2)OCO1)OC)C)C)O)=O | C50H73NO14
